US04745181
Preparation of 9-Acridinecarbonyl Chloride
A mixture of 9-acridinecarboxylic acid hydrate (7.3 g, 30 mmole), and thionyl chloride (50 ml, 0.685 mole) was heated at reflux in a round bottom flask equipped with a reflux condenser, a drying tube, and a stirring bar. The reaction mixture was heated further for one hour after the dissolution occurred, then cooled and evaporated to remove any excess thionyl chloride. The residue was directly utilized in the subsequent reaction without further purification.

reactant | 9-acridinecarboxylic acid hydrate | 30 mmole, 7.3 g | O.C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)O
reactant | thionyl chloride | 0.685 mole, 50 ml | S(=O)(Cl)Cl | Cl2OS
product | 9-Acridinecarbonyl Chloride | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)Cl | C14H8ClNO
